US06727249B2
(1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one
(1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-ene-2-one (Description 12; 13.88 g, 31.05 mmol) was dissolved in methanol (25 ml) and ethyl acetate (25 ml) and 10% palladium hydroxide (1.80 g) added and the mixture hydrogenated at 30 psi for 30 minutes. The mixture was filtered and concentrated in vacuo to give the title compound as a yellow oil (11.65 g, 84%).

reactant | (1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-ene-2-one | 31.05 mmol, 13.88 g | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=C(C=C2)F | C26H22FNO3S
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium hydroxide | 1.80 g | [OH-].[Pd+2].[OH-]
product | (1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one | 11.65 g, 84% | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=C(C=C2)F | C26H24FNO3S
